US07176242B2
N1-butyl-N3-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N1-methyl-5-(1,3-oxazol-2-yl)isophthalamide
3-{[Butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid (237 mg, 0.78 mmol) is dissolved in DMF (5 mL), and diisopropylethylamine (546 μL, 3.1 mmol), HATU (358 mg, 0.94 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (319 mg, 0.78 mmol) are added. The reaction stirred at room temperature 5 h. The reaction mixture is diluted with chloroform, washed with water, 1N hydrochloric acid (aq), saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9% methanol/methylene chloride) provides the title compound. ESI MS m/z 619.3 [M+H]+.

reactant | 3-{[Butyl(methyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid | 0.78 mmol, 237 mg | C(CCC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)C | C16H18N2O4
reactant | diisopropylethylamine | 3.1 mmol, 546 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.94 mmol, 358 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N1-butyl-N3-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N1-methyl-5-(1,3-oxazol-2-yl)isophthalamide | C(CCC)N(C(C1=CC(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)=CC(=C1)C=1OC=CN1)=O)C | C35H40F2N4O4
